US08138189B2
Step 2: {3′-Chloro-4′-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-biphenyl-4-yl}-acetonitrile
To a solution of {3′-chloro-4′-[3,3,3-trifluoro-2-hydroxy-2-(6-methoxy-pyridin-3-yl)-1-methyl-propyl]-biphenyl-4-yl}-acetonitrile (87 mg) in dioxane (2.8 ml) was added conc. aqueous HCl (0.31 ml). The mixture was stirred at 100° C. for 1.5 h. After cooling to room temperature, water was added and the mixture was extracted with EtOAc. The organic phase was concentrated to dryness and the product was purified by chromatography (SiO2, CH2Cl2/MeOH 1:0=>9:1) to give the title compound (59 mg) as a colorless solid. MS (m/e)=447.3 [M+H+].

reactant | {3′-chloro-4′-[3,3,3-trifluoro-2-hydroxy-2-(6-methoxy-pyridin-3-yl)-1-methyl-propyl]-biphenyl-4-yl}-acetonitrile | 87 mg | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C=1C=NC(=CC1)OC)O)C)C1=CC=C(C=C1)CC#N | C24H20ClF3N2O2
reactant | HCl | 0.31 ml | Cl | ClH
reactant | water | O | H2O
solvent | dioxane | 2.8 ml | O1CCOCC1 | C4H8O2
product | {3′-Chloro-4′-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-biphenyl-4-yl}-acetonitrile | 59 mg | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C1=CNC(C=C1)=O)O)C)C1=CC=C(C=C1)CC#N | C23H18ClF3N2O2
